US07659393B2
Synthesis of 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene [compound of the formula (IIb): series of steps (II); step (C)]
A 40% strength solution of 6.16 g of pyruvaldehyde in water (34.2 mmol) in 10 ml of ethanol is added by slow dropwise addition into a solution of 5 g (34.2 mmol) of triethylenetetraamine in 30 ml of ethanol cooled to 0° C. On completion of addition, the reaction mixture is adjusted to ambient temperature and 8.15 g (68.5 mmol) of benzotriazole are added in a single portion. A solution of 4.97 g of glyoxal (40% in water) (34.2 mmol) in 5 ml of ethanol is added by slow dropwise addition. After 2 h of stirring at ambient temperature, the solution is cooled to 0° C. and 2.59 g (68.5 mmol) of NaBH4 are added in small portions. After returning to ambient temperature, the reaction medium is stirred for 2 hours, the ethanol is evaporated, 50 ml of water and 6.5 g of KOH pellets are added to the residue. The solution is then extracted with two 300 ml portions of chloroform. After drying over MgSO4 and evaporation of the solvents, (IIb) (a mixture of several isomers) is isolated in the form of an orange oil (4.84 g; yield=68%).

reactant | pyruvaldehyde | 6.16 g | C(C(=O)C)=O | C3H4O2
reactant | water | 34.2 mmol | O | H2O
reactant | triethylenetetraamine | 34.2 mmol, 5 g | NCCNCCNCCN | C6H18N4
reactant | benzotriazole | 68.5 mmol, 8.15 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | glyoxal | 34.2 mmol, 4.97 g | C(=O)C=O | C2H2O2
reactant | NaBH4 | 68.5 mmol, 2.59 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene | yield=68% | CC12N3CCN4CCN(CCN1CC3)C42 | C11H20N4
